US07332529B2
Synthesis of 3,5-dinonoxybenzyl Alcohol
To a flame dried 1 L RBF containing a stir bar, lithium aluminum hydride (2.166 g, 57.0 mmol) was added. The RBF was placed in an ice bath and the reaction was capped with a septum containing a nitrogen gas line and an out-vent. Dry ether (10 mL) was added through the septum while the mixture was stirring. Methyl 3,5-dinonyloxybenzoate (20 g, 47.5 mmol) was added and dissolved in 60 mL dry ether, drop-wise through the septum. After this addition, the reaction mixture became clumpy and would not stir so about 150 mL more of dry ether was added to dilute the mixture. After 1 hour, the nitrogen line and the out-vent were removed and the septum was changed. The mixture was stirred overnight. The RBF was then placed in an ice bath. Distilled water (150 mL) was added drop-wise through the septum until the mixture turned a white-grey color. The reaction mixture was allowed to stir at room temperature for 10 minutes and then 100 mL 1M hydrochloric acid was added until the pH reached less than 2. The mixture was then extracted with ether 4 time (200 mL) and the ether layers were combined and then washed with 200 mL distilled water, then with 200 mL aqueous sodium carbonate (5%), then with 200 mL distilled water, then with 200 mL brine, and then dried with magnesium sulfate and gravity filtered. The solvent was removed under reduced pressure, producing a waxy white solid. The solid was air dried overnight. The solid was purified by silica gel flash chromatography using a solvent system of 1 L 20% ether and hexanes and 2 L 40% ether and hexanes. The product was collected and the solvent was removed under reduced pressure. The resulting oil was covered with the septum and allowed to stand over night where it is partially solidified. There was a 13.22 g yield or a 71.8% yield of the derivative. The NMR characterization data for this derivative is as follows. 1H NMR (300 MHz, CDCl3): 0.88 (t, J=6.3, 6H, CH2CH3), 1.1-1.55 (m, 28H, CH2(CH2)6), 1.76 (p, J=6.6, 4H, OCH2CH2), 3.92 (t, J=7.0, 4H, OCH2CH2), 4.62 (d, J=6.1, 2H, CHCH2CH), 5.29 (s, 1H, CH2OH), 6.63 (t, J=2.2, 1H, ArH), 7.15 (d, J=2.2, 2H, ArH). 13C (75 MHz, CDCl3): 160.54, 143.33, 105.07, 100.54, 68.12, 31.98, 29.65, 29.50, 29.37, 29.35, 26.14, 22.78, 14.21.

reactant | lithium aluminum hydride | 57.0 mmol, 2.166 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Methyl 3,5-dinonyloxybenzoate | 47.5 mmol, 20 g | C(CCCCCCCC)OC=1C=C(C(=O)OC)C=C(C1)OCCCCCCCCC | C26H44O4
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 3,5-dinonoxybenzyl Alcohol | 71.8% yield | C(CCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCC | C25H44O3
